US09212168B2
(c) (2S,4S)-1-tert-butyl 2-methyl 4-(methoxymethyl)pyrrolidine-1,2-dicarboxylate
A solution of (5,E)-1-tert-butyl 2-methyl 4-(methoxymethylene)pyrrolidine-1,2-dicarboxylate (9 g, 33.21 mmol), magnesium oxide (12 g, 33.21 mmol) and palladium on carbon (3 g) in methanol (100 mL) was held under a steady flow of hydrogen at RT for 2 h, and filtered. The organic phase was concentrated to provide the title intermediate (9 g, 100% yield) as a colorless oil. 1H NMR (400 MHz, (CD3)2S═O): δ(ppm) 1.367 (s, 9H), 1.620-1.670 (m, 1H), 1.904-1.953 (m, 1H), 3.110-3.140 (s, 3H, J=12 Hz), 3.255-3.360 (m, 2H), 3.523-3.561 (m, 1H), 3.653 (s, 3H), 4.241-4.283 (m, 1H).

reactant | (5,E)-1-tert-butyl 2-methyl 4-(methoxymethylene)pyrrolidine-1,2-dicarboxylate | 33.21 mmol, 9 g | CO\C=C\1/C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C13H21NO5
reactant | magnesium oxide | 33.21 mmol, 12 g | [O-2].[Mg+2]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | (2S,4S)-1-tert-butyl 2-methyl 4-(methoxymethyl)pyrrolidine-1,2-dicarboxylate | 9 g, 100% yield | COC[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C13H23NO5
